US05602252
9-Ethyl-7-methyl-4-(dimethylamino)imidazo[5,1-h]pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with dimethylamine, followed by reaction with 2-ethyl-4-methylimidazole, reduction with tin (II) chloride, and cyclization with carbonyldiimidazole.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | dimethylamine | CNC | C2H7N
reactant | 2-ethyl-4-methylimidazole | C(C)C=1NC=C(N1)C | C6H10N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 9-Ethyl-7-methyl-4-(dimethylamino)imidazo[5,1-h]pteridin-6(5H)-one | C(C)C1=NC(=C2C(NC=3C(=NC=NC3N21)N(C)C)=O)C | C13H16N6O
